US07576094B2
6′-Methoxy-5′,7′,8′-trimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one (146.7 mg), palladium (II) acetate, 1-chloro-4-iodobenzene (202.5 mg) and NaO-t-Bu (81.6 mg) were added to an oven dried tube. The flask was capped and the air evacuated with a house vacuum line, then refilled with nitrogen. This nitrogen flushing was repeated 3 times. Toluene (1.5 mL) was then added and the suspension was stirred for 15 min at room temperature before ter-butylphosphine (1.7 mL, 0.056 mmol, 33.7 mM in toluene) was added. The mixture was then heated up in oil bath (120° C.) for 2.5 h. It was then quenched with water and extracted with ethylacetate. The organic phase was washed with brine, dried and evaporated to give an oil, which was passed through a silica column (EtOAc/Hexane: 0-10%) to give 1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one (137.6 mg) as a solid. 1H-NMR (300 MHz, CDCl3) δ=7.257-7.026 (d, 2H), 6.904-6.553 (d, 2H), 4.09 (s, 2H), 3.71 (s, 3H), 2.62 (s, 3H), 2.454-2.276 (m, 2H), 2.24 (s, 3H), 2.125-1.836 (m, 2H), 1.81 (s, 3H), 1.746-1.554 (m, 2H) ppm. 13CNMR (75 MHz, CDCl3) δ=201.17, 148.99, 144.28, 137.51, 131.65, 129.92, 129.28, 125.56, 125.37, 121.03, 60.28, 60.04, 50.71, 9.71, 15.57, 15.44, 14.63, 13.92 ppm.

reactant | 6′-Methoxy-5′,7′,8′-trimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one | 146.7 mg | COC=1C(=C2C(C3(CNC2=C(C1C)C)CCC3)=O)C | C16H21NO2
reactant | 1-chloro-4-iodobenzene | 202.5 mg | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | NaO-t-Bu | 81.6 mg | O([Na])C(C)(C)C
reactant | ter-butylphosphine | 0.056 mmol, 33.7 mM, 1.7 mL | C(C)(C)(C)P | C4H11P
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | 1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one | 137.6 mg | ClC1=CC=C(C=C1)N1CC2(C(C3=C(C(=C(C(=C13)C)C)OC)C)=O)CCC2 | C22H24ClNO2
